US07405231B2
A solution of 0.50 g (1.5 mmol) 4-chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-thiazole in 20 ml dichloromethane was stirred with 0.31 g (1.8 mmol) 3-chloro-benzenecarboperoxoic acid at room temperature for 2 days. The solution was washed with diluted sodium hydroxide, dried, evaporated and purified on silica. Elution with ethyl acetate/heptane 1:6 yielded 270 mg (52%) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazole as off-white solid, melting at 98-99° C.

reactant | 4-chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-thiazole | 1.5 mmol, 0.50 g | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)SC(F)(F)F | C13H9ClF3NS2
reactant | 3-chloro-benzenecarboperoxoic acid | 1.8 mmol, 0.31 g | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazole | 270 mg, 52% | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NOS2
